US05308854
3-[(2-Benzothiazolylmethyl)amino]-5-ethyl-6-methyl-2-(1H)-pyridinone
A solution of 3-amino-5-ethyl-6-methyl-2-(1H)-pyridinone (152 mg, 1.0 mmol), 2-chloromethyl-1,3-benzthiazole (184 mg, 1.0 mmol) and triethylamine (0.14 mL, 1.0 mmol) in absolute ethanol (5 mL) was stirred at reflux for 24 hours. After filtering and concentrating under reduced pressure, the residue was flash chromatographed over silica gel. Elution with 4% MeOH- 96% CHCl3 gave 233 mg of product. Recrystallization from EtOH-water gave 77 mg of analytically pure product, mp 209°-210° C. Anal. Calcd for C16H17N3OS: C, 67.83; H, 6.05; N, 14.83. Found: C, 67.71; H, 6.03; N, 14.70.

reactant | 3-amino-5-ethyl-6-methyl-2-(1H)-pyridinone | 1.0 mmol, 152 mg | NC=1C(NC(=C(C1)CC)C)=O | C8H12N2O
reactant | 2-chloromethyl-1,3-benzthiazole | 1.0 mmol, 184 mg | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[(2-Benzothiazolylmethyl)amino]-5-ethyl-6-methyl-2-(1H)-pyridinone | 233 mg | S1C(=NC2=C1C=CC=C2)CNC=2C(NC(=C(C2)CC)C)=O | C16H17N3OS
